US09233922B2
A 2 L four-necked round-bottomed flask equipped with a Teflon® coated magnetic stirring bar, dropping funnel, thermometer, and a gas inlet was evacuated and filled with nitrogen. 2-naphthol (51.8 g, 359.3 mmol, 1.0 equivalent), dehydrated toluene (800 mL), and triethylamine (52.6 mL, 377.3 mmol, 1.05 equivalents) were charged into the flask successively. Subsequently, to the solution was added p-toluenesulfonyl chloride (69.9 g, 366.5 mmol, 1.02 equivalents) in dehydrated toluene (140 mL) dropwise via the dropping funnel over 15 minutes at such a rate that the internal temperature was kept at 50° C. or lower, and the mixture was stirred for further 2 hours at room temperature. The thus-obtained white suspension was poured into water, and the aqueous layer was separated off. The organic layer was passed through a silica gel pad, and concentrated under reduced pressure to give solid residue, which was purified by recrystallization from toluene/methanol to afford 94.2 g of 2-naphthyl tosylate as a white powder. The mother liquor was concentrated under reduced pressure to give solid residue, which was recrystallized to recover further 9.2 g of 2-naphthyl tosylate.

reactant | 2-naphthol | 359.3 mmol, 51.8 g, 1.0 equivalent | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | triethylamine | 377.3 mmol, 52.6 mL, 1.05 equivalents | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 366.5 mmol, 69.9 g, 1.02 equivalents | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
product | 2-naphthyl tosylate | 94.2 g | S(=O)(=O)(OC1=CC2=CC=CC=C2C=C1)C1=CC=C(C)C=C1 | C17H14O3S
